US08461158B2
Reaction of 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazole with tert-butyl 3-amino-1-azetidinecarboxylate gave tert-butyl 3-{[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]amino}-1-azetidinecarboxylate in 86% yield: mp (CH2Cl2/hexanes) 201-203° C.; 1H NMR (DMSO-d6) (rotamers) δ 8.50 and 8.45 (2d, J=6.3, 6.5 Hz, 1H), 8.01 and 7.93 (2d, J=8.2, 8.3 Hz, 1H), 7.83 and 7.44 (2t, JHF=53.1, 52.9 Hz, 1H), 7.44-7.37 (m, 1H), 6.96 and 6.95 (2d, J=8.1, 8.0 Hz, 1H), 4.73-4.58 (m, 1H), 4.78 (t, J=7.8 Hz, 2H), 3.97 (s, 3H), 3.87-3.82 (m, 2H), 3.78 (m, 4H), 3.69, (m, 4H), 1 40 and 1.39 (2s, 9H); Anal. Calcd. for C24H30F2N8O4: C, 54.1; H, 5.7; N, 21.0. Found: C, 54.0; 5.8; N, 21.0%.

reactant | 1-[4-chloro-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-2-(difluoromethyl)-4-methoxy-1H-benzimidazole | ClC1=NC(=NC(=N1)N1CCOCC1)N1C(=NC2=C1C=CC=C2OC)C(F)F | C16H15ClF2N6O2
reactant | tert-butyl 3-amino-1-azetidinecarboxylate | NC1CN(C1)C(=O)OC(C)(C)C | C8H16N2O2
product | tert-butyl 3-{[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]amino}-1-azetidinecarboxylate | 86% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)NC1CN(C1)C(=O)OC(C)(C)C)C=CC=C2OC)F | C24H30F2N8O4
